US06121305
1 g of 3-methyl-1-(4-carboxyphenyl)-5-pyrazolidone (4.5 mmol) was dissolved in 20 ml of methanol and a sufficient amount of nitrogen gas was injected into the solution to replace the air with nitrogen. A catalytic amount of selenium dioxide (25 mg, 0.05 equivalent, MW 110.96) was added and 1.5 ml (3 equivalent) 30% hydrogen peroxide was added dropwise over an ice-cooled water bath. The mixture was stirred until room temperature. The stirring was continued for a further 12 hours while heating at 70-80° C. The deposited crystals were separated by filtration and dried under reduced pressure to obtain 460 mg of 5,5'-dihydroxy-3,3'-dimethyl-1,1'-bis(4-carboxyphenyl)-4,4'-bipyrazole (MW 434.12, 1.06 mmol, 47.1%).

reactant | 3-methyl-1-(4-carboxyphenyl)-5-pyrazolidone | 4.5 mmol, 1 g | CC1NN(C(C1)=O)C1=CC=C(C=C1)C(=O)O | C11H12N2O3
reactant | selenium dioxide | 25 mg, 0.05 equivalent | [Se](=O)=O | O2Se
reactant | hydrogen peroxide | 1.5 ml, 3 equivalent | OO | H2O2
solvent | methanol | 20 ml | CO | CH4O
product | 5,5'-dihydroxy-3,3'-dimethyl-1,1'-bis(4-carboxyphenyl)-4,4'-bipyrazole | 1.06 mmol, 460 mg, 47.1% | OC1=C(C(=NN1C1=CC=C(C=C1)C(=O)O)C)C=1C(=NN(C1O)C1=CC=C(C=C1)C(=O)O)C | C22H18N4O6
